US07026339B2
To a premixed solution of 2-methylbenzoic acid (7.5 mmol), EDCl (1.5 mmol) and DMAP (3.0 mmol) in DMA 40 mL and DCM 13 mL is added dimethylhydroxylamine hydrochloride (1.5 mmol). The reaction is stirred at room temperate over night. The reaction mixture is then filtered. The filtrate is diluted with EtOAc and washed with water, 10% NaHSO4 and brine. The solution is dried over Na2SO4 and the solvent is evaporated. A light yellow oil N-methoxy-N,2-dimethylbenzamide is obtained in 80% yield.

reactant | 2-methylbenzoic acid | 7.5 mmol | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | EDCl | 1.5 mmol | CCN=C=NCCCN(C)C.Cl
reactant | dimethylhydroxylamine hydrochloride | 1.5 mmol | Cl.CN(O)C
catalyst | DMAP | 3.0 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMA | 40 mL | CC(=O)N(C)C | C4H9NO
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N,2-dimethylbenzamide | 80% yield | CON(C(C1=C(C=CC=C1)C)=O)C | C10H13NO2
